US07071201B2
(50-1) 1-Acetyl-6-aminoindoline
Under ice cooling, acetyl chloride (1.7 ml) was added dropwise into a solution of 1-[1-(4-t-butoxycarbonyl)piperidin-4-yl]-6-aminomethylindoline (8.3 g) and triethylamine (2.4 g) in acetonitrile (150 ml) followed by stirring the resultant mixture at room temperature for 1 hr. To the liquid reaction mixture were added a saturated aqueous solution of sodium bicarbonate and ethyl acetate and the layers were separated. The organic layer was then washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. After adding chloroform (100 ml) and trifluoroacetic acid (50 ml), the resultant mixture was stirred at room temperature for 2 hr. After concentrating under reduced pressure, a 2 N aqueous solution of sodium hydroxide (100 ml) and toluene (50 ml) were added thereto followed by vigorous stirring. Then the resultant mixture was purified by NH-silica gel column chromatography (methanol/ethyl acetate system) to give the title compound (3.78 g) as white needles (yield: 58%).

reactant | acetyl chloride | 1.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-Acetyl-6-aminoindoline | 3.78 g, yield: 58% | C(C)(=O)N1CCC2=CC=C(C=C12)N | C10H12N2O
